US05965364
This compound was prepared similarly. 5-Iodouridine (1.35 mmol, 500 mg) was dissolved in dry DMF (12 mL) and Ar was bubbled through the solution for 10 min. Then, (Ph3P)4Pd (0.1 equiv., 0.1351 mmol, 156 mg) was added and Ar was bubbled through the solution for another 5 min. Triethylamine (2.0 equiv., 2.703 mmol, 273 mg, 0.376 mL) was added via syringe followed by addition of N-propargyltrifluoroacetamide (2.5 equiv., 3.38 mmol, 510 mg and CuI (0.2 equiv., 0.27 mmol, 51.5 mg). The mixture was stirred at 45° C. for 3.5 h, then the solvent was evaporated, and the residue dissolved in MeOH/methylene chloride 1:1 (10 mL). Ion exchange resin (Bio-Rad AG1 X8, HCO331 form, 1.5 g) was added to remove Et3N HI, and the mixture stirred at room temperature for 20 min. The mixture was then filtered through Celite, the solid washed with MeOH/methylene chloride 1:1 (10 mL) and the solvents removed by rotary evaporation. The residue was purified by column chromatography (chloroform/MeOH 8.25:1.75) to yield 5-(3-trifluoroacetamidopropyn-1-yl)-uridine (ca. 95%) as a yellow foam contaminated with some Et3N.HI. Rf : 0.43 (chloroform/MeOH 8.25:1.75). 1H-NMR (DMSO-d6): 3.61 (m, 2H, 5'), 3.86 (m, 1H, 4'), 3.93-4.08 (m, 2H, 2',3'), 4.23 (m, 2H, H-9), 5.08 (d, 1H, OH), 5.19 (t, 1H, OH), 5.41 (d, 1H, OH), 5.75 (d, 1H, 1'), 8.48 (s, 1H, H-6), 10.10 (t, 1H, NH chain), 11.64 (s, 1H, NH cycl.). 13C-NMR (DMSO-d6): 29.5 (C-9), 60.5 (5'), 69.6 (3'), 73.8 (2'), 75.3 (C-8), 85.0 (4'), 87.6, (C-7), 88.3 (1'), 97.8 (C-5), 113.9, 117.7 (q, CF3, J=288.48 Hz), 144.4 (C-6), 149.7 (C-2), 155.9, 156.4 (q, COCF3, J=36.80 Hz), 161.6 (C-4).

reactant | 5-Iodouridine | 1.35 mmol, 500 mg | IC=1C(NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H11IN2O6
reactant | Triethylamine | 2.703 mmol, 0.376 mL, 273 mg, 2.0 equiv. | C(C)N(CC)CC | C6H15N
reactant | N-propargyltrifluoroacetamide | C(C#C)NC(C(F)(F)F)=O | C5H4F3NO
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
catalyst | (Ph3P)4Pd | 0.1351 mmol, 156 mg, 0.1 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.27 mmol, 51.5 mg, 0.2 equiv. | [Cu]I
product | 5-(3-trifluoroacetamidopropyn-1-yl)-uridine | ca. 95% | FC(C(=O)NCC#CC=1C(NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C1)=O)=O)(F)F | C14H14F3N3O7
